US06399627B1
To a solution of 3-(2-bromoacetyl)benzonitrile (500 mg, 2.23 mmol) in 5 ml dichloromethane was added pyrazole (304 mg, 4.46 mmol) and triethylamine (0.31 ml, 2.23 mmol). Reaction was stirred at room temperature over night. Reaction was then diluted with 20 ml dichloromethane, washed with 2×25 ml water, 2×25 ml 1N HCl, dried over magnesium sulfate, filtered and concentrated in vacuo. Crude residue was chromatographed on silica gel using 2.5% EtOAc in hexane to give 3-[2-(1H-1-pyrazolyl)acetyl]benzonitrile (330 mg, 70%) as a clear oil after drying. ES-MS (M+H+): 212.05

reactant | 3-(2-bromoacetyl)benzonitrile | 2.23 mmol, 500 mg | BrCC(=O)C=1C=C(C#N)C=CC1 | C9H6BrNO
reactant | pyrazole | 4.46 mmol, 304 mg | N1N=CC=C1 | C3H4N2
reactant | triethylamine | 2.23 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-[2-(1H-1-pyrazolyl)acetyl]benzonitrile | 330 mg, 70% | N1(N=CC=C1)CC(=O)C=1C=C(C#N)C=CC1 | C12H9N3O
